US09340812B2
Large Scale Production of Globo H with Linker
5 mmol Gb5 with linker, 5 mmol fucose, 12 mmol Phosphoenolpyruvic acid (PEP), 0.25 mmol ATP, 0.25 mmol GTP with 10 mM MgCl2 were added into 100 mM Tris-HCl buffer (pH 7.5). The reaction was initiated by addition suitable amount of α-1,2-fucosyltransferase, L-fucokinase/GDP-fucose pyrophosphorylase (FKP), pyruvate kinase (PK) and pyrophosphatase (PPA). The flask was placed into an incubator at 16˜50° C. with gentle shaking. The reaction was monitored by TLC. More enzymes are added if the reaction stops. The reaction is stopped when no more starting material is observed by TLC. The Globo H product was purified by 18C reverse phase column in 94% yield.

reactant | fucose | 5 mmol | O=C[C@@H](O)[C@H](O)[C@H](O)[C@@H](O)C | C6H12O5
reactant | Phosphoenolpyruvic acid | 12 mmol | C=C(C(=O)O)OP(=O)(O)O | C3H5O6P
reactant | ATP | 0.25 mmol | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H16N5O13P3
reactant | GTP | 0.25 mmol | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(=O)NC(N)=NC12)O)O | C10H16N5O14P3
reactant | MgCl2 | 10 mM | [Mg+2].[Cl-].[Cl-]
reactant | Tris-HCl | 100 mM, pH 7.5 | C(C(CO)(CO)N)O.Cl
reactant | GDP-fucose | CC1C(C(C(C(O1)OP(=O)(O)OP(=O)(O)OCC2C(C(C(O2)N3C=NC4=C3NC(=NC4=O)N)O)O)O)O)O | C16H25N5O15P2
reactant | pyruvate | C(C(=O)C)(=O)[O-]
product | Globo H | 94% yield | C[C@H]1[C@H]([C@H]([C@@H]([C@@H](O1)O[C@@H]2[C@H]([C@H]([C@H](O[C@H]2O[C@@H]3[C@H]([C@@H](O[C@@H]([C@H]3O)CO)O)NC(=O)C)CO)O)O)O)O)O | C20H35NO15
